US05750754
5-[(4-Pyridyl)piperazin-1-yl]pentanoic acid, dihydrochloride salt
Following the method of Example 195ii), but staring from ethyl 5-[(4-pyridyl)piperazine-1-yl]pentanoate, dichydrochloride salt instead of ethyl 4-[(4-pyridyl)piperazin-1-yl]butyrate, dihydrochloride salt, the title compound was isolated after recrystallisation from wet ethanol, as an off-white crystalline solid in 59% overall yield: m.p. 294°-297° C. (dec); NMR (d6DMSO+CD3CO2D) δ 1.62(2H,m, 1.80(2H,m), 2.32(2H,t), 3.18(2H,m), 3.41(4H,m), 4.05(4H,m) 7.29(2H,d, 8.34(2H,d; m/Z 264 (M+H)+ ; calculated for C14H21N3O2. 2.0 HCl: C, 50.0%; H, 6.89%; N, 12.5%; found: C, 50.5% H, 7.2%; N, 12.2%.

reactant | ethyl 5-[(4-pyridyl)piperazine-1-yl]pentanoate | N1=CC=C(C=C1)C1N(CCNC1)CCCCC(=O)OCC | C16H25N3O2
reactant | ethyl 4-[(4-pyridyl)piperazin-1-yl]butyrate, dihydrochloride salt | Cl.Cl.N1=CC=C(C=C1)C1N(CCNC1)CCCC(=O)OCC
product | 5-[(4-Pyridyl)piperazin-1-yl]pentanoic acid, dihydrochloride salt | Cl.Cl.N1=CC=C(C=C1)C1N(CCNC1)CCCCC(=O)O | InChI=1S/C14H21N3O2.2ClH/c18-14(19)3-1-2-9-17-10-8-16-11-13(17)12-4-6-15-7-5-12;;/h4-7,13,16H,1-3,8-11H2,(H,18,19);2*1H
